US06165941
3-Chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine
40.8 g of 100% nitric acid were added dropwise at from 0 to 5° C. to a solution of 118.9 g of 3-chloro-2-(4-fluorophenyl)-5-trifluoromethylpyridine in 563 ml of 96% sulfuric acid, and the mixture was then stirred at from 0 to 5° C. for 11/2 hours. For work-up, the reaction mixture was poured into 2 l of ice water, and the product was then extracted with ethyl acetate (3×300 ml). The combined organic phases were washed twice with 100 ml of water in each case, dried over sodium sulfate and then evaporated. Yield: 134.5 g (97%) of a colorless oil which crystallized slowly.

reactant | nitric acid | 40.8 g | [N+](=O)(O)[O-] | HNO3
reactant | 3-chloro-2-(4-fluorophenyl)-5-trifluoromethylpyridine | 118.9 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC=C(C=C1)F | C12H6ClF4N
solvent | sulfuric acid | 563 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C12H5ClF4N2O2
